US04349681
Preparation of 2-Amino-3,6-dichloro-5-trifluoromethylpyridine
In a 200 ml four necked flask equipped with a thermometer, a stirrer and a reflux condenser were placed 7 g of 2-amino-5-trifluoromethyl-6-chloropyridine, 10 ml of carbon tetrachloride and 70 ml of 20% sulfuric acid to give a homogeneous solution. Chlorine gas was introduced thereinto while cooling the flask at 0° C., and the reaction was carried out for 4 hours. After confirming the completion of the reaction by thin layer chromatography, the reaction product was poured into ice water and neutralized with a potassium hydroxide solution. 50 ml of methylene chloride was added thereto, followed by washing with water. The organic phase was dried over anhydrous sodium sulfate, and the solvent was evaporated off. The solid thus obtained was washed with n-hexane to obtain 6.7 g of the desired product.

reactant | 2-amino-5-trifluoromethyl-6-chloropyridine | 7 g | NC1=NC(=C(C=C1)C(F)(F)F)Cl | C6H4ClF3N2
reactant | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
reactant | Chlorine | ClCl | Cl2
reactant | potassium hydroxide | [OH-].[K+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Amino-3,6-dichloro-5-trifluoromethylpyridine | 6.7 g | NC1=NC(=C(C=C1Cl)C(F)(F)F)Cl | C6H3Cl2F3N2
